US05155113
Preparation of 4-hydroxy-2-(2-methylpropanoyloxy)-pyridine
To 2.0 g of 2,4-bis(trimethylsilyloxy)-pyridine in 20 ml of methylene chloride was added 1.01 g of 2-methylpropionyl chloride and the mixture was stirred at room temperature for one hour. Following thereafter the general procedure of Example 27, 230 mg of the title compound was obtained in a yield of 16.1%.

reactant | 2,4-bis(trimethylsilyloxy)-pyridine | 2.0 g | C[Si](OC1=NC=CC(=C1)O[Si](C)(C)C)(C)C | C11H21NO2Si2
reactant | 2-methylpropionyl chloride | 1.01 g | CC(C(=O)Cl)C | C4H7ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-hydroxy-2-(2-methylpropanoyloxy)-pyridine | 230 mg, yield of 16.1% | OC1=CC(=NC=C1)OC(C(C)C)=O | C9H11NO3
